US06498191B2
To 95.4 mg(0.38 mmole) of 2-nitro-4-octylphenol in 2 ml of 1:1 glacial acetic acid and water mixture at 85-90° C. was added 0.35 gm of activated iron in three portions over a 15 min period. The reaction was allowed to proceed at the same temperature for 45 min. The reaction mixture was diluted then with 5 ml of water and extracted with 20 ml ethyl acetate. The organic layer was dried over anhydrous Na2SO4 and concentrated by rotary evaporation. The crude product was flash chromatographed over silica gel using 30% ethyl acetate in hexane to yield 56 mg of 2-amino-4-octyl phenol, Structure (I-2), in 67% yield.

reactant | 2-nitro-4-octylphenol | 0.38 mmole, 95.4 mg | [N+](=O)([O-])C1=C(C=CC(=C1)CCCCCCCC)O | C14H21NO3
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | iron | 0.35 gm | [Fe] | Fe
product | 2-amino-4-octyl phenol | 56 mg, 67% yield | NC1=C(C=CC(=C1)CCCCCCCC)O | C14H23NO
